Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
double vision
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Neurology at bedside for evaluation after code stroke
activation/consult within: 5 minutes
Time (and date) the patient was last known well: 5:30am (24h
clock) 
___ Stroke Scale Score: 2 
t-PA given:  No Reason t-PA was not given or considered: out of
window 

I was not present during the CT scanning (done at osh), but
reviewed the images on arrival. 

The NIHSS was performed: 
Date: ___
Time: 11:00am
(within 6 hours of patient presentation or neurology consult) 
 
___ Stroke Scale score was : 2
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0
2. Best gaze: 0
3. Visual fields: 0
4. Facial palsy: 1
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7. Limb Ataxia: 1
8. Sensory: 0
9. Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0
 
REASON FOR CONSULTATION: stroke
 
HPI: 
Ms. ___ is a ___ old right-handed woman with a
past medical history of ulcerative colitis, hyperlipidemia who
presented to ___ with blurry vision, left facial droop
and left arm weakness as well as unsteady gait.

Patient awoke in her usual state of health at 4:00 in the
morning.  This is a time when she typically gets up for work. 
She was in bed talking to her husband when around 5:30 AM, she
had a sudden sensation of bilateral lip tingling affecting both
the top and bottom lips.  There is no perioral or tongue
sensation.  She was able to continue speaking and understood 
what
her husband was saying during this time.  She did not have any
headache.  The sensation lasted about 5 minutes and then
resolved.  She went about her normal morning routine and took a
shower.  However afterwards, she was walking down the hallway 
and
suddenly felt off balance.  She reported veering from side to
side.  She did not fall. Additionally, she started to feel a
sensation of blurry vision, mostly affecting the right eye and
slight double vision.  Despite this, she continued to get ready
for work.  She got into her car and started driving.  She got
about 2 miles down the road and had to pull over because she was
swerving from side to side.  At that point, she tried calling 
her
husband with her cell phone.  Due to blurry vision, she had
difficulty dialing the correct number and initially dialed her
son by mistake whose name is ___ (her husband's name is ___. 
Her husband came to meet her in her car at the side of the road
and at that time noticed that the patient had a left facial 
droop
and slurred speech.  The patient also noticed at that time that
she could not control the left arm and had difficulty reaching
for objects that she placed on the car's dashboard.

EMS was called and on their initial assessment patient had a 
left
facial droop, left arm weakness and slurred speech.  Initial
blood pressure was 152/103.  They transferred her to ___.

On arrival to ___, patient's neurologic exam is notable
for a left facial droop and left upper extremity pronator drift. 

Telemetry stroke was initiated and patient scored ___ stroke
scale of 2.  CT head was negative for bleed.  CTA head and neck
did not show any acute vessel occlusion.  Although patient was 
in
the window for TPA, she did not get treatment given low ___
stroke scale.

The decision was made to admit her to the hospital for stroke
workup, however patient complained of worsening blurry vision 
and
new right lip numbness and recent exam demonstrated new
nystagmus.

Patient was given aspirin for stroke prophylaxis and the 
decision
was made to send her to ___ for further management per
patient's family request.

On arrival to ___, the patient continues to complain of
vertical diplopia and left facial droop.
 
On neuro ROS, the pt denies headache, loss of vision, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
difficulties producing or comprehending speech.  Denies focal
weakness. No bowel or bladder incontinence or retention. 
 
On general review of systems, the pt denies recent fever or
chills.  No history of blood clots in the legs or lungs.  No
history of miscarriages.
 
 
Past Medical History:
Asthma
Ulcerative colitis
Hyperlipidemia 
s/p tubal ligation
 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: T: 98.0 P: 80 R: 16  BP: 110/85 SaO2: 98% RA
General: Awake, cooperative, NAD.
HEENT: Holds head in a tilt. NC/AT, no scleral icterus noted,
MMM, no lesions noted in oropharynx
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Language is fluent with intact repetition 
and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 3mm and brisk. EOMI with righ
beating nystagmus on right gaze and left beating, torsional
nystagmus on left gaze. Has torsional nystagmus on upgaze. None
on downgaze. Cover-uncover and alternative cover test without
refixation. Right eye is hypertropic. She has vertical/diagonal
double vision on primary gaze. VFF to confrontation. Visual
acuity on the right is ___ and on the left is ___
(normally wears glasses for distance, which she did not have 
with
her).  
V: Facial sensation intact to light touch, including lips.
VII: Left facial droop with good activation. Full strength in 
the
lips and eyes bilaterally. 
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5   5    ___   5    5   5    5    5      5   
R  5   5    ___   5    5   5    5    5      5   

-Sensory: No deficits to light touch, pinprick. Mildly decreased
cold sensation over the right arm only. Prioception intact in 
the
fingers and toes, though misses her nose with her right finger
with eyes closed. No extinction to DSS. Romberg absent. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Slow and irregular finger 
tap
on the left. Slow and irregular rapid alternating movements on
the left. No rebound. No dysmetria on FNF or HKS bilaterally. 
Her
torso tilts to the left with sitting with eyes closed. 

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing
but veers to the left.  
=======================================

DISCHARGE PHYSICAL EXAM:
Vitals: T=98.0, HR 74, BP 115/76, RR- 16, 95% RA

General: awake, cooperative, NAD
HEENT: NC/AT, no scleral icterus noted, MMM
Pulmonary: breathing comfortably, no tachypnea or increased WOB
Cardiac: skin warm, well-perfused
Extremities: symmetric, no edema

Neurologic:
-Mental Status: Alert and grossly oriented. Able to relate
history without difficulty. Attentive to interview with fluent
language, prosody, and comprehension. There were no paraphasic
errors. Speech was not dysarthric. Able to follow both midline
and appendicular commands. 

-Cranial Nerves: EOM intact with torsional nystagmus to left. No
nystagmus to the right. Accommodation intact. VFF. Facial
sensation intact. Face symmetric. Hearing intact bilaterally.
Tongue moves well. 

-Motor: Normal bulk. Slight left pronation without drift. Rest 
of
the examination is full. 

-Sensory: No deficits to light touch.

-Coordination: No dysmetria on FNF bilaterally. Finger tapping
intact with accuracy, regular rate and amplitude. No
dysdiadochokinesia.
 
Pertinent Results:
LABS:
___ 11:14AM BLOOD WBC-6.7 RBC-4.06 Hgb-13.4 Hct-39.7 MCV-98 
MCH-33.0* MCHC-33.8 RDW-13.3 RDWSD-47.5* Plt Ct-UNABLE TO 
___ 11:14AM BLOOD Neuts-84.2* Lymphs-9.3* Monos-5.1 
Eos-0.6* Baso-0.4 Im ___ AbsNeut-5.61 AbsLymp-0.62* 
AbsMono-0.34 AbsEos-0.04 AbsBaso-0.03
___ 11:14AM BLOOD ___ PTT-28.5 ___
___ 07:38AM BLOOD ___ 11:14AM BLOOD Glucose-88 UreaN-10 Creat-0.6 Na-138 
K-5.2 Cl-107 HCO3-20* AnGap-11
___ 11:14AM BLOOD ALT-18 AST-31 AlkPhos-36 TotBili-0.7
___ 04:15AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 08:45AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 11:14AM BLOOD Albumin-4.0 Calcium-8.9 Phos-3.1 Mg-1.9 
Cholest-268*
___ 07:38AM BLOOD D-Dimer-227
___ 11:14AM BLOOD %HbA1c-5.1 eAG-100
___ 11:14AM BLOOD Triglyc-115 HDL-60 CHOL/HD-4.5 
LDLcalc-185*
___ 11:14AM BLOOD TSH-1.1
___ 08:45AM BLOOD CRP-1.4
___ 11:14AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

IMAGING:
MRI BRAIN WITHOUT CONTRAST ___:
1. Study is mildly degraded by motion.
2. Right thalamic acute to subacute infarct without definite 
evidence of hemorrhagic transformation.
3. Grossly stable nonspecific low-lying cerebellar tonsils, with 
extensive approximately 3 mm inferior to foramina magnum.
4. Mild paranasal sinus disease as described.

___ U/S:
No evidence of deep venous thrombosis in the right or left lower 
extremity veins.

TTE ___:
The left atrial volume index is normal. There is a small atrial 
septal defect or stretched patent foramen ovale. There is normal 
left ventricular wall thickness with a normal cavity size. There 
is normal regional left ventricular systolic function. Global 
left ventricular systolic function is normal. The visually 
estimated left ventricular ejection fraction is 70%. There is no 
resting left ventricular outflow tract gradient. Normal right 
ventricular cavity size with normal free wall motion. The aortic 
sinus diameter is normal for gender with mildly dilated 
ascending aorta. The aortic arch diameter is normal. The aortic
valve leaflets (3) appear structurally normal. There is no 
aortic valve stenosis. There is no aortic regurgitation. The 
mitral leaflets appear structurally normal with no mitral valve 
prolapse. There is trivial mitral regurgitation. The tricuspid 
valve leaflets appear structurally normal. There is trivial 
tricuspid regurgitation. There is no pericardial effusion.

IMPRESSION: Adequate image quality. There is a small atrial 
septal defect or stretched patent foramen ovale. 

 
Brief Hospital Course:
Ms. ___ is a ___ old right-handed woman with a 
past medical history of ulcerative colitis on mesalamine and 
mercaptopurine, hyperlipidemia who presented to ___ with 
blurry vision, left facial droop and left arm 
weakness/clumsiness as well as unsteady gait. Her initial 
examination was notable for multiple findings, including a skew 
deviation with right eye hypertropia, direction changing 
nystagmus with right beating nystagmus on right gaze and 
torsional left beating nystagmus on left gaze with torsional 
nystagmus on upgaze. She also has vertical diplopia on primary 
gaze, decreased visual acuity, a left facial droop, clumsiness 
in the left upper extremity, decreased temperature and 
proprioception in the right arm and truncal lean towards the 
left with veering to the left with walking.

She was admitted to the stroke service for further work-up. MRI 
revealed a right thalamic ischemic infarct. CTA head and neck 
without significant vessel stenosis. TTE with normal LA size. 
There was a small ASD. EF 70%. Etiology of stroke thought to be 
secondary to a cardioembolic source from presumed blood clot 
from the legs through the PFO. However, no DVT found on 
bilateral lower extremity ultrasound. Stroke risk factors 
include A1c 5.1 and LDL 185. TSH 1.1. Hypercoagulable work-up 
pending at discharge, including lupus anticoagulant, B2 
gycloprotein and cardiolipin antibodies. 

She was started aspirin 81 and atorva 40 for stroke prophylaxis. 
Closure of PFO was discussed with the patient. However, given 
its size and absence of an associated septal aneurysm, the 
benefit of closure was unclear in her situation and she decided 
to hold off on any intervention. Additionally, given low 
suspicion for paroxysmal atrial fibrillation, Holter monitoring 
was deferred.

By the time of discharge, she only had some torsional nystagmus 
to the left and mild left arm pronation without droop. 
Otherwise, normal exam. 

She will follow-up with stroke neurology for further genetic 
testing. 

Transitional issues:
-f/u hypercoagulable labs
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Mesalamine ___ 1600 mg PO TID 
2. Mercaptopurine 75 mg PO DAILY 
3. Ondansetron 4 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*3 
3.  Mercaptopurine 75 mg PO DAILY  
4.  Mesalamine ___ 1600 mg PO TID  
5.  Ondansetron 4 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right thalamic ischemic infarct

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

You were hospitalized due to symptoms of double vision, facial 
droop resulting from an ACUTE ISCHEMIC STROKE, a condition where 
a blood vessel providing oxygen and nutrients to the brain is 
blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- high cholesterol 
- patent foramen ovale (PFO)
  
We are changing your medications as follows:  
- START Aspirin 81mg daily 
- START Atorvastatin 40mg daily 

We think your stroke was due to a blood clot in the legs which 
went to your brain through the small hole in your heart. We 
recommend aspirin to prevent further strokes. Because of the 
size of the hole in your heart, there is no role for closing it 
at this time. 

Please take your other medications as prescribed.  
 
Please follow up with Neurology and your primary care physician 
as listed below. You will have genetic testing for blood clots 
as an outpatient with neurology. 
 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
Your ___ Neurology Team  

 
Followup Instructions:
___